US04689330
A mixture of 6.7 parts of 1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinemethanamine dihydrobromide, 3.26 parts of 2-(methylsulfonyl)thiazolo[4,5-c]pyridine, 4.25 parts of sodium carbonate and 18 parts of N,N-dimethylacetamide was stirred for 2 hours at 150° C. The reaction mixture was poured into ice water. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 1,1'-oxybisethane. The product was filtered off and dried, yielding 1.15 parts (20%) of N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]thiazolo[4,5-c]pyridin-2-amine; mp. 147.1° C. (compound 58).

reactant | 1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinemethanamine dihydrobromide | Br.Br.O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CN
reactant | 2-(methylsulfonyl)thiazolo[4,5-c]pyridine | CS(=O)(=O)C=1SC2=C(C=NC=C2)N1 | C7H6N2O2S2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]thiazolo[4,5-c]pyridin-2-amine | 20% | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CNC=2SC1=C(C=NC=C1)N2 | C21H24N4O2S
